US09034866B2
Into a 2000-mL 4-necked round-bottom flask was placed a solution of 3-oxocyclobutane-1-carboxylic acid (114 g, 999.13 mmol, 1.00 equiv) in dichloromethane (400 mL), 2-methylpropan-2-ol (102 g, 1.38 mol, 1.37 equiv), N,N-dimethylpyridin-4-amine (67.2 g, 550.06 mmol, 0.55 equiv), followed by the addition of a solution of N—(N-cyclohexylcarboximidoyl)cyclohexanamine (226.6 g, 1.10 mol, 1.10 equiv) in dichloromethane (300 mL) dropwise with stirring at room temperature over 25 min. The resulting solution was stifled overnight at room temperature. The solids were filtered out and the filtrate was washed with 2×500 mL of HCl (1 M) and 1×500 mL of saturated aqueous NaHCO3, and concentrated under vacuum. The residue was diluted with 500 mL of hexane. The mixture was decolorized by 50 g of active carbon and stirring for 3 minutes. The solids were filtered out and the filtrate was concentrated under vacuum to afford 102 g (60%) of tert-butyl 3-oxocyclobutane-1-carboxylate as a light yellow liquid.

reactant | 3-oxocyclobutane-1-carboxylic acid | 999.13 mmol, 114 g, 1.00 equiv | O=C1CC(C1)C(=O)O | C5H6O3
reactant | 2-methylpropan-2-ol | 1.38 mol, 102 g, 1.37 equiv | CC(C)(C)O | C4H10O
reactant | N—(N-cyclohexylcarboximidoyl)cyclohexanamine | 1.10 mol, 226.6 g, 1.10 equiv | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylpyridin-4-amine | 550.06 mmol, 67.2 g, 0.55 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | tert-butyl 3-oxocyclobutane-1-carboxylate | 102 g, 60% | O=C1CC(C1)C(=O)OC(C)(C)C | C9H14O3
